US06211215B1
In substantially the same manner as in Reference Example 47, 5-methoxy-2-thiophenecarboxamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(5-methoxy-2-thienyl)oxazole. The yield was 1.2%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 64-65° C.

reactant | 5-methoxy-2-thiophenecarboxamide | COC1=CC=C(S1)C(=O)N | C6H7NO2S
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(5-methoxy-2-thienyl)oxazole | yield was 1.2% | ClCC=1N=C(OC1)C=1SC(=CC1)OC | C9H8ClNO2S
